US09126940B2
tert-butyl (1E,4E)-8-bromo-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-2-ylcarbamate, 4-(ethoxycarbonyl)phenylboronic acid (1.5 equiv), tetrakis(triphenylphosphine)palladium(0), 2M aqueous potassium carbonate (3 equiv) were combined in 2 mls of acetonitrile in a microwave reaction vial. This mixture was heated in a microwave to 100° C. for 30 minutes. The mixture was then diluted with EtOAc, washed twice with brine, dried over sodium sulfate, and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 7% MeOH/DCM) afforded ethyl 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate.

reactant | tert-butyl (1E,4E)-8-bromo-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-2-ylcarbamate | BrC=1C=CC\2=C(\N=C(/C\C(=C2)\C(N(CCC)CCCO[Si](C)(C)C(C)(C)C)=O)\NC(OC(C)(C)C)=O)C1 | C28H44BrN3O4Si
reactant | 4-(ethoxycarbonyl)phenylboronic acid | 1.5 equiv | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | potassium carbonate | 2M, 3 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mls | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C(=O)OCC)C=C2)\C(N(CCC)CCCO[Si](C)(C)C(C)(C)C)=O | C37H53N3O6Si
